US04870074
Preparation of 2-aminomethyl-4-(2-chlorobenzyl)-6-methylmorpholine
A solution of 2-acetylaminomethyl-4-(2-chlorobenzyl)-6-methylmorpholine (3.0 g) in 10% hydrochloric acid (60 ml) is refluxed with stirring for 2 hours. The reaction mixture is basified with aqueous sodium hydroxide solution and extracted with chloroform. The organic layer is washed successively with water and saturated aqueous sodium choride solution, and dried over magnesium sulfate. The solvent is distilled off under reduced pressure to give the title compound (2.2 g) as an oil.

reactant | 2-acetylaminomethyl-4-(2-chlorobenzyl)-6-methylmorpholine | 3.0 g | C(C)(=O)NCC1CN(CC(O1)C)CC1=C(C=CC=C1)Cl | C15H21ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 2-aminomethyl-4-(2-chlorobenzyl)-6-methylmorpholine | 2.2 g | NCC1CN(CC(O1)C)CC1=C(C=CC=C1)Cl | C13H19ClN2O
